US06043366
8-Cyclodecyl-3-(4,6-dimethoxy-[1,3,5]triazin-2-yl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m. p. 216° C. and MS: m/e=509.5 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 2-chloro-4,6-dimethoxy-[1,3,5]triazine.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 2-chloro-4,6-dimethoxy-[1,3,5]triazine | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
product | 8-Cyclodecyl-3-(4,6-dimethoxy-[1,3,5]triazin-2-yl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)C2=NC(=NC(=N2)OC)OC)=O)CC1 | InChI=1S/C28H40N6O3.ClH/c1-36-26-29-25(30-27(31-26)37-2)33-21-34(23-15-11-8-12-16-23)28(24(33)35)17-19-32(20-18-28)22-13-9-6-4-3-5-7-10-14-22;/h8,11-12,15-16,22H,3-7,9-10,13-14,17-21H2,1-2H3;1H
